US08247556B2
Preparation III—(S)-2-(5-Nitro-2-pentafluoroethyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A flask was charged with 5-nitro-2-pentafluoroethylphenol (945.0 mg, 3.7 mmol), PPh3 (965.0 mg, 3.7 mmol), S-(+)-(1-tert-butoxycarbonyl)-2-pyrrolidine-methanol (740 mg, 3.7 mmol) and THF (9 mL). The mixture was stirred to dissolve the solids and cooled to −20° C. Diisopropylazodicarboxylate (0.738 mL, 3.8 mmol) in THF (4 mL) was added over 2 h using a syringe pump, keeping the reaction temperature between −10 to −20° C. The reaction was warmed to RT and stirred for 19 h. The THF was stripped and the crude mixture dissolved in EtOAc, washed with water and brine, then dried with MgSO4, filtered and evaporated. The mixture was purified by column chromatography using EtOAc/hexanes as the eluent. The title compound was obtained as a viscous liquid.

reactant | 5-nitro-2-pentafluoroethylphenol | 3.7 mmol, 945.0 mg | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(C(F)(F)F)(F)F | C8H4F5NO3
reactant | PPh3 | 3.7 mmol, 965.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Diisopropylazodicarboxylate | 3.8 mmol, 0.738 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | THF | 9 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-(5-Nitro-2-pentafluoroethyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C18H21F5N2O5
